US04647565
(i) Ethyl 4-(1-methylpiperid-4-yloxy)acetoacetate
Sodium hydride (5.0 g of 50% dispersion in mineral oil) was added portionwise to a stirred solution of 4-hydroxy-1-methyl-piperidine (11.5 g) in dry dimethylformamide (80 ml). The mixture was stirred at room temperature for 1 hour and then cooled to 10° C. A solution of ethyl 4-chloroacetoacetate (8.2 g) in dry dimethylformamide (20 ml) was added dropwise with stirring and stirring was continued for a further 20 hours at room temperature. Ethanol (10 ml) was added and the solution was evaporated to dryness. The residue was partitioned between dichloromethane and dilute hydrochloric acid. The organic layer was separated, dried over sodium sulphate and evaporated to given an oil which was partitioned between acetonitrile and petrol to remove mineral oil. The acetonitrile extract was evaporated to give the title compound as an oil (10.3 g) which was used without further purification.

reactant | Sodium hydride | 5.0 g | [H-].[Na+]
reactant | 4-hydroxy-1-methyl-piperidine | 11.5 g | OC1CCN(CC1)C | C6H13NO
reactant | ethyl 4-chloroacetoacetate | 8.2 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | Ethanol | 10 ml | C(C)O | C2H6O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(1-methylpiperid-4-yloxy)acetoacetate | 10.3 g | CN1CCC(CC1)OCC(CC(=O)OCC)=O | C12H21NO4
